US04147696
In a 500 ml volume flask, there are charged 2-mercaptobenzothiazole (UV absorption spectrum: 329 mμ) (41.28 g), sodium hydroxide (10 g) and water (180 ml), and the resultant mixture is stirred to form a solution. After the addition of 3-methylpiperidine (27.2 g) to the resulting solution, a 15 % by volume aqueous solution of sodium hypochlorite (138.5 ml) is dropwise added thereto in 2 hours, during which the inner temperature is kept below 70° C. The reaction mixture is allowed to stand at the same temperature for 1 hour and then shaken with ethyl acetate (150 ml). The ethyl acetate extract is washed with water and distilled under reduced pressure to give 1-(2-benzothiazolylthio)-3-methyl-piperidine (62.3 g).

reactant | 2-mercaptobenzothiazole | 41.28 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
reactant | 3-methylpiperidine | 27.2 g | CC1CNCCC1 | C6H13N
reactant | sodium hypochlorite | 138.5 ml | Cl[O-].[Na+]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 180 ml | O | H2O
product | 1-(2-benzothiazolylthio)-3-methyl-piperidine | 62.3 g | S1C(=NC2=C1C=CC=C2)SN2CC(CCC2)C | C13H16N2S2
